US07906517B2
Ethyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-hydroxy-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate (300 mg) and 3-pentanol (63 mg) are dissolved in tetrahydrofuran (4 ml), and thereto are added dropwise triphenylphosphine (189 mg) and a 40% diethyl azodicarboxylate in toluene (130 μl) under ice-cooling, and the mixture is stirred at room temperature overnight. Thereto are added water and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=1:0→9:1) to give ethyl 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(1-ethyl-propoxy)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate (195 mg). MS (m/z): 696 [M+H]+

reactant | Ethyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-hydroxy-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate | 300 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OCC)CC2=C(C=CC(=C2)C(F)(F)F)O)C=C(C1)C(F)(F)F)(F)F | C27H24F9N3O4
reactant | 3-pentanol | 63 mg | CCC(CC)O | C5H12O
reactant | triphenylphosphine | 189 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | toluene | 130 μl | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | ethyl 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(1-ethyl-propoxy)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate | 195 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OCC)CC2=C(C=CC(=C2)C(F)(F)F)OC(CC)CC)C=C(C1)C(F)(F)F)(F)F | C32H34F9N3O4
